US05631401
N-i-Butyl-N-(4-phenoxybenzyl)amine
4-Phenoxybenzaldehyde (10.0 g, 0.05 mmol), excess isobutylamine and 1.0 g of 10% Pd/O in 200 mL of ethanol were stirred under an inert atmosphere for 16 hours followed by an atmosphere of hydrogen for 16 hours. After removal of the catalyst by filtration through Celite®, the filtrate was concentrated under reduced pressure to give the crude product as an oil. The oil was dissolved in ether and precipitated by treatment with anhydrous HCl. The solid was filtered, washed with ether, and partitioned between ethyl acetate and 1M NaOH. The ethyl acetate solution was washed with brine, dried over Na2SO4, and evaporated to give the title compound in 93% yield.

reactant | 4-Phenoxybenzaldehyde | 0.05 mmol, 10.0 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | isobutylamine | C(C(C)C)N | C4H11N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
catalyst | Pd | 1.0 g | [Pd] | Pd
product | N-i-Butyl-N-(4-phenoxybenzyl)amine | 93% yield | C(C(C)C)NCC1=CC=C(C=C1)OC1=CC=CC=C1 | C17H21NO
